US04391821
17.6 g 7-hydroxy-2-methyl-4H-1-benzopyrane-4-one-[J.Org. Chem. 24, 683, (1959)], 0.1 cm3 piperidine and 60 cm3 1-chloro-2,3-epoxy-propane were stirred for 9 hours at a temperature of 90° C. The mixture was worked up according to example 5 (b) and 19.0 g 1-chloro-3-(2-methyl-4H-1-benzopyrane-4-one-7-yloxy)-2-propanol was obtained (m.p. 104°-106° C.).

reactant | 7-hydroxy-2-methyl-4H-1-benzopyrane-4-one | 17.6 g | OC1=CC2=C(C(C=C(O2)C)=O)C=C1 | C10H8O3
reactant | piperidine | 0.1 cm3 | N1CCCCC1 | C5H11N
reactant | 1-chloro-2,3-epoxy-propane | 60 cm3 | ClCC1CO1 | C3H5ClO
product | 1-chloro-3-(2-methyl-4H-1-benzopyrane-4-one-7-yloxy)-2-propanol | 19.0 g | ClCC(COC1=CC2=C(C(C=C(O2)C)=O)C=C1)O | C13H13ClO4
